Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chocolate flavor / wheat / lactose / pineapple
 
Attending: ___
 
Pertinent Results:
ADMISSION LABS:
=============
___ 09:00PM BLOOD WBC-5.1 RBC-4.11* Hgb-12.9* Hct-37.4* 
MCV-91 MCH-31.4 MCHC-34.5 RDW-12.3 RDWSD-40.4 Plt ___
___ 06:45AM BLOOD ___ PTT-40.4* ___
___ 09:00PM BLOOD Glucose-79 UreaN-7 Creat-0.7 Na-138 K-4.5 
Cl-98 HCO3-27 AnGap-13
___ 10:37AM BLOOD ALT-12 AST-11 LD(LDH)-116 AlkPhos-51 
TotBili-0.5
___ 06:45AM BLOOD cTropnT-<0.01
___ 09:00PM BLOOD Calcium-9.9 Phos-4.3 Mg-2.1
___ 09:00PM BLOOD TSH-1.1

UA: 10 ketones, otherwise neg
UCx: negative

DISCHARGE LABS:
==============
___ 06:50AM BLOOD WBC-4.8 RBC-4.03* Hgb-12.6* Hct-38.1* 
MCV-95 MCH-31.3 MCHC-33.1 RDW-12.5 RDWSD-43.3 Plt ___
___ 06:50AM BLOOD Glucose-72 UreaN-10 Creat-0.8 Na-143 
K-4.3 Cl-104 HCO3-26 AnGap-13

IMAGING:
========
EKG (___):
Sinus brady at 49bpm with sinus arrhythmia, nl axis, PR 180, QRS
86, QTC 410, no ischemic changes

CXR (___):
The lung volumes are normal.  Normal size of the cardiac
silhouette.  Normal hilar and mediastinal contours.  No
pneumonia, no pulmonary edema, no pleural effusions. 

 
Brief Hospital Course:
___ year old transgender female -> male with hx anxiety, 
depression, OCD, anorexia nervosa (binge/purge subtype) admitted 
voluntarily for medical stabilization and monitoring for 
refeeding prior to transfer to eating disorder treatment 
facility. 

# Anorexia nervosa (purge subtype): # Severe malnutrition: 
# Recent syncopal episode:  # Medically unstable eating 
disorder: 
Long history of binging/purging (~120 lbs weight loss over ___ 
years) for which he follows with therapist ___ in 
___ and nutritionist ___. Recently established 
care with eating disorder specialist Dr. ___ (Adolescent 
Medicine at ___, pager ___ ___. Has not tolerated 
refeeding as an outpatient, with multiple recent syncopal 
episodes (last ~2 weeks PTA to ___, reportedly discharged after 
syncope w/u). Meets criteria for medically unstable eating 
disorder based on recent syncope. There was no recurrent 
pre-syncope or syncopal events during this hospitalization. 
Patient monitored for several days and adhered fully to the 
eating disorder protocol. Orthostatic vitals were negative and 
there was no evidence of re-feeding. Medically cleared for 
discharge with plan to pursue further voluntary treatment at an 
out of state program. 

# Sinus bradycardia:
Noted to be in sinus bradycardia, likely related to restrictive 
eating as above. Monitored on telemetry and no other concerning 
arrhythmia identified. HRs increased appropriately with 
activity. Suspect patient will continue to have low resting HRs 
that should not raise any concern unless patient endorses 
associated symptoms. 

# Depression: # Anxiety: 
# OCD: # Hx SI: 
Mood stable. Patient pleasant and fully cooperative with care. 
Seen by psychiatry as part of multidisciplinary eating disorder 
team, who recommended Ativan 0.5 mg PO TIDAC prn with meals for 
anxiety/nausea. There was consideration of SSRI initiation but 
this was deferred. Patient was NOT on a ___ and thus 
admission was entirely voluntary. 

# Transgender female to male: 
Patient was taking testosterone 5% gel to groin daily on 
admission but was switched to weekly injection formulation prior 
to discharge. Next due ___. Patient trained on how to 
self-administration.  

# Constipation: 
Patient without bowel movement for several days prior to 
admission. Given stool softener and daily miralax. There was no 
concern for misuse. 

TRANSITIONAL ISSUES: 
===================
[] Patient should continue weekly testosterone injections, he 
has been trained on how to self-administer. 
[] Monitor constipation and allow bowel regimen as indicated. No 
concerns for misuse observed during this hospitalization. 
[] Patient working to establish ___ PCP upon return to 
___. 

> 30 mins spent coordinating discharge

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anorexia nervosa (purging subtype)
Depression
Obsessive compulsive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege to care for you at the ___ 
___. You were admitted for medical stabilization 
prior to enrolling in a eating disorder program. You are now 
medically stable for discharge to pursue the next steps of 
treatment. 

We wish you the best!

Sincerely,
Your ___ Team 
 
Followup Instructions:
___